US04673746
A mixture of 3.2 g of 3-(4-chlorophenyl)-6-mercapto-1,2-benzisoxazole, 2.52 g of potassium carbonate, 2.39 g of ethyl-2-bromo-2-methylpropionate and 75 ml dimethylformamide is heated at 60° C. for 8 hr. The reaction mixture is poured onto ice/dil hydrochloric acid and extracted with ether. The combined ether extracts are washed with dil sodium hydroxide solution, saturated sodium chloride solution and the solvent is removed in vacuo to afford a yellow oil. The oil is distilled in a Kugelrohr oven at 175° C. and 1.0 mm Hg to give an oil which crystallizes on standing. The solid is recrystallized from isopropyl ether using a brine-chilled Buchner funnel to afford ethyl 2-{[3-(4-chlorophenyl)-1,2-benzisoxazol-6-yl]thio}-2-methylpropionate.

reactant | 3-(4-chlorophenyl)-6-mercapto-1,2-benzisoxazole | 3.2 g | ClC1=CC=C(C=C1)C1=NOC2=C1C=CC(=C2)S | C13H8ClNOS
reactant | potassium carbonate | 2.52 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl-2-bromo-2-methylpropionate | 2.39 g | C(C)OC(C(C)(C)Br)=O | C6H11BrO2
solvent | dimethylformamide | 75 ml | CN(C=O)C | C3H7NO
product | ethyl 2-{[3-(4-chlorophenyl)-1,2-benzisoxazol-6-yl]thio}-2-methylpropionate | ClC1=CC=C(C=C1)C1=NOC2=C1C=CC(=C2)SC(C(=O)OCC)(C)C | C19H18ClNO3S
